US06826033B2
To a solution of sodium 3-[[[[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]-amino]carbonyl]amino]benzoate (50.0 mg) in a mixed solvent of tetrahydrofuran (1.0 ml) and water (1.0 ml) was added 1N sodium hydroxide solution (99.7 μl). To the solution was added di-tert-butyl dicarbonate (27.5 μl) at room temperature and the mixture was stirred for 2 hours. An additional portion of di-tert-butyl dicarbonate (27.5 μl) was added and the mixture was stirred for 30 minutes. To the mixture was added pH 4.0 buffer solution (10 ml) and the resulting suspension was extracted with ethyl acetate (30 ml×1). The organic layer was separated and washed with brine (10 ml×1), dried over magnesium sulfate, and evaporated to give 3-[[[[4-[(2S)-2-[N-(tert-butoxycarbonyl)-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-hydroxypropyl]phenyl]-amino]carbonyl]amino]benzoic acid (47.3 mg) as a yellow solid.

reactant | sodium 3-[[[[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]-amino]carbonyl]amino]benzoate | 50.0 mg | OC[C@H](CC1=CC=C(C=C1)NC(=O)NC=1C=C(C(=O)[O-])C=CC1)NC[C@@H](COC1=CC=CC=C1)O.[Na+]
reactant | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1N, 99.7 μl | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 27.5 μl | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 27.5 μl | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 1.0 ml | O | H2O
product | 3-[[[[4-[(2S)-2-[N-(tert-butoxycarbonyl)-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-hydroxypropyl]phenyl]-amino]carbonyl]amino]benzoic acid | 47.3 mg | C(C)(C)(C)OC(=O)N(C[C@@H](COC1=CC=CC=C1)O)[C@@H](CC1=CC=C(C=C1)NC(=O)NC=1C=C(C(=O)O)C=CC1)CO | C31H37N3O8
